US07795253B2
b) 4-[(2-Hydroxyethoxy)-(3H-imidazol-4-yl)methyl]benzonitrile
2.45 mmol of sodium borohydride are added to a solution of 1.63 mmol of ethyl [(4-cyanophenyl)-1-(trityl-1H-imidazol-4-yl)methoxy]acetate in 10 ml of ethanol at room temperature. The reaction mixture is stirred at room temperature for 16 hours and then evaporated. The residue is taken up in dichloromethane and saturated aqueous sodium bicarbonate solution, the phases are separated, and the aqueous phase is back-extracted with dichloromethane. The combined organic phases are dried with sodium sulphate and evaporated. The title compound is obtained as a white solid from the residue by flash chromatography (SiO2 60F). Rf=0.10 (ethyl acetate-heptane 1:2); Rt=7.39.

reactant | sodium borohydride | 2.45 mmol | [BH4-].[Na+]
reactant | ethyl [(4-cyanophenyl)-1-(trityl-1H-imidazol-4-yl)methoxy]acetate | 1.63 mmol | C(#N)C1=CC=C(C=C1)C(OCC(=O)OCC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H29N3O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[(2-Hydroxyethoxy)-(3H-imidazol-4-yl)methyl]benzonitrile | OCCOC(C1=CC=C(C#N)C=C1)C=1NC=NC1 | C13H13N3O2
